US07851473B2
(6) 4-[4-(3-Chlorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (212 mg, 0.786 mmol), 1-[4-(3-chlorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.715 mmol) and diisopropylethylamine (0.249 ml, 1.43 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 15 hours. Water was poured to the reaction mixture, and extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 113 mg (39.7%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.786 mmol, 212 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-[4-(3-chlorophenyl)-1,3-thiazol-2-yl]piperazine | 0.715 mmol, 200 mg | ClC=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1 | C13H14ClN3S
reactant | diisopropylethylamine | 1.43 mmol, 0.249 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-[4-(3-Chlorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide | 113 mg, 39.7% | ClC=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C19H18ClN5OS
